US07973047B2
(1-Allyl-3-methylcyclobutoxy)(tert-butyl)dimethylsilane (4.1000 g, 17.05 mmol) was dissolved in 150 ml of t-BuOH/H2O/THF (2/2/1) and osmium tetroxide (10.84 ml, 0.8525 mmol, 2.5 wt %) and 4-methylmorpholine oxide (2.996 g, 25.58 mmol) were added. The mixture was stirred for 6 h and the mixture was diluted with 250 ml water and extracted with EtOAc. The combined organic extracts were evaporated and re-dissolved in 150 ml of t-BuOH/H2O/THF (2/2/1). Sodium periodate (4.741 g, 22.17 mmol) was added and stirring was continued for 6 h. The mixture was filtered and diluted with 250 ml of water. The mixture was extracted with Et2O and the combined organic extracts were dried over MgSO4, evaporated and re-dissolved in 100 ml CH2Cl2. Cupric sulfate anhydrous (8.164 g, 51.15 mmol), and (r)-(+)-2-methyl-2-propanesulfinamide (4.133 g, 34.10 mmol) were added at RT and stirring was continued over night. The reaction was filtered and hydrolyzed with 30 ml water. The mixture was extracted 3×EtOAc (3×150 ml) and the combined organic extracts were dried over MgSO4 and evaporated. Glass col. chrom. (20-50% EtOAc in Hex) provided (E)-N-(2-(1-(tert-butyldimethylsilyloxy)-3-methylcyclobutyl)ethylidene)-2-methylpropane-2-sulfinamide. Mixture of cis/trans at the cyclobutylring (4:1).

reactant | (1-Allyl-3-methylcyclobutoxy)(tert-butyl)dimethylsilane | 17.05 mmol, 4.1000 g | C(C=C)C1(CC(C1)C)O[Si](C)(C)C(C)(C)C | C14H28OSi
reactant | 4-methylmorpholine oxide | 25.58 mmol, 2.996 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Sodium periodate | 22.17 mmol, 4.741 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | (r)-(+)-2-methyl-2-propanesulfinamide | 34.10 mmol, 4.133 g | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | t-BuOH H2O THF | 150 ml | CC(C)(C)O.O.C1CCOC1
solvent | water | 250 ml | O | H2O
catalyst | osmium tetroxide | 0.8525 mmol, 10.84 ml | [Os](=O)(=O)(=O)=O
product | (E)-N-(2-(1-(tert-butyldimethylsilyloxy)-3-methylcyclobutyl)ethylidene)-2-methylpropane-2-sulfinamide | [Si](C)(C)(C(C)(C)C)OC1(CC(C1)C)C\C=N\S(=O)C(C)(C)C | C17H35NO2SSi
